US04657899
Ethyl 3-[2-(2-diethylphosphonoethyl)phenyl]-2-acetamido-2-carboethoxy-propanoate
A solution of 5 g (1.2 mmol) of ethyl 3-[2-(2-bromoethyl)phenyl]-2-acetamido-2-carboethoxypropanoate in 10 mL of P(OEt)3 was stirred at reflux for 4 h. The excess P(OEt)3 and the volatile by-products were removed from the mixture by distillation under vacuum. The remaining viscous oil was initially purified by column chromatography (C-18, MeOH:H2O; 4:1), then by preparative HPLC (C-18, MeOH:H2O, 7:3) giving 0.48 g (86%) of the product as a clear viscous oil. IR(Nujol) 1745.9, 1676.5 cm-1 (C=O); 1H NMR(CDCl3) δ 1.1-1.5 (m, 12H); 1.8-3.1 (complex, m, 7H); 3.7 (s, 2H); 3.8-4.4 (m, 8H); 6.6 (s, 1H), 7.0-7.3 (m, 4H) Anal. Calcd. for C22H34NO8P: C, 56.04; H, 7.27; N, 2.97. Found: C, 55.91; H, 7.31, N, 2.84.

reactant | ethyl 3-[2-(2-bromoethyl)phenyl]-2-acetamido-2-carboethoxypropanoate | 1.2 mmol, 5 g | BrCCC1=C(C=CC=C1)CC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C18H24BrNO5
reactant | P(OEt)3 | 10 mL | P(OCC)(OCC)OCC | C6H15O3P
product | Ethyl 3-[2-(2-diethylphosphonoethyl)phenyl]-2-acetamido-2-carboethoxy-propanoate | 0.48 g, 86% | C(C)OP(=O)(OCC)CCC1=C(C=CC=C1)CC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C22H34NO8P
